US04791929
Synthesis of ε-Caprolactone-Glycolide Copolymer
ε-Caprolactone (170 g, 1.49 mole), glycolide (30 g, 0.26 mole), lauryl alcohol (1.37 g, 7.3×10-3 mole) and stannous octoate (0.052 g, 1.2×10-4 mole) were combined in a stirred reactor under nitrogen at 180° C. The mixture was stirred at 180° C. for 4.5 hours. The resulting polymer had an inherent viscosity of 0.68 dl/g (0.5 g/dl in CHCl3). The composition was determined by 1H NMR to be 85 wt. % ε-caprilactone and 15 wt. % glycolide.

reactant | ε-Caprolactone | 1.49 mole, 170 g | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 0.26 mole, 30 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | lauryl alcohol | 7.3×10-3 mole, 1.37 g | C(CCCCCCCCCCC)O | C12H26O
reactant | stannous octoate | 1.2×10-4 mole, 0.052 g | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | ε-Caprolactone Glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
